US04614747
A solution of 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol (3.2 g, 10 mmol) and triphenylphosphine (2.88 g, 11 mmol) in 20 ml of THF is stirred in an ice bath and 1.78 g (10 mmol) of N-bromosuccinimide is added in small portions over a period of one hour. After addition, the cooling bath is removed and the temperature of the reaction mixture is allowed to rise slowly to room temperature. The mixture is concentrated in vacuo and then diluted with a mixture of ether/petroleum ether. After sitting in refrigerator for several hours, white crystals of triphenylphosphine oxide occur, which is collected by filtration. The filtrate is concentrated and dissolved in 10 ml of dry DMF. To this solution is added 2 g of triethylamine and 0.68 g of methylamine hydrochloride. The resulting mixture is stirred at room temperature for 18 hours and poured into 500 ml of ice-water. The crude product is extracted into ethylacetate and washed with water. After drying over magnesium sulfate, the solvent is removed in vacuo to give the crude product as an oil. This substance is purified on HPLC (2% ethyl acetate in hexane, silica gel column) to give 1-methylamino-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene.

reactant | 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol | 10 mmol, 3.2 g | CC(CO)=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C | C23H34O
reactant | triphenylphosphine | 11 mmol, 2.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 10 mmol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-methylamino-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene | CNCC(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C | C24H37N
